US06897231B2
A. 3-[4-(2-Morpholin-4-yl-ethoxy)phenyl]-1H-indazole-5-carbonitrile
A mixture of 3-(4-hydroxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (400 mg, 1.25 mmol), triphenylphosphine (Ph3P, 1.31 g, 5.00 mmol, 4.00 equiv.), 4.00 mL THF, 4-(2-hydroxyethyl)morpholine (656 mg, 5.00 mmol, 4.00 equiv.), and diethyl azodicarboxylate (DEAD, 871 mg, 5.00 mmol, 4.00 equiv.) were stirred at room temperature for 5 days. The reaction was diluted with EtOAc and washed with 2×6.0 N aq. HCl. The combined aqueous layers were extracted with 2×EtOAc. The acidic aqueous layer was allowed to stand at room temperature for 5 h, and then added to enough 6.0 N aq. NaOH such that the final pH>12.0. The aqueous layer was extracted with EtOAc. The organic layer was dried (Na2SO4), filtered and concentrated. Purification by silica gel chromatography using 0-5% MeOH in EtOAc as eluent afforded an oil. Sonication of the oil in 15 mL of 10% EtOAc/hexane gave a precipitate. This mixture was diluted with 18 mL of hexanes, sonicated, and filtered affording the title compound (310 mg, 71.1% yield: ES-MS (m/z) 349 [M+1]+.

reactant | 3-(4-hydroxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 1.25 mmol, 400 mg | OC1=CC=C(C=C1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C19H17N3O2
reactant | triphenylphosphine | 5.00 mmol, 1.31 g, 4.00 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(2-hydroxyethyl)morpholine | 5.00 mmol, 656 mg, 4.00 equiv. | OCCN1CCOCC1 | C6H13NO2
reactant | diethyl azodicarboxylate | 5.00 mmol, 871 mg, 4.00 equiv. | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOAc hexane | 15 mL | CCOC(=O)C.CCCCCC
solvent | THF | 4.00 mL | C1CCOC1 | C4H8O
product | 3-[4-(2-Morpholin-4-yl-ethoxy)phenyl]-1H-indazole-5-carbonitrile | 71.1% yield | N1(CCOCC1)CCOC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C#N | C20H20N4O2
